US08067437B2
3-chloro-1-(3,4-diethylphenyl)-1-propanone
1,2-Diethylbenzene (10.9 g, 74.6 mmol) and propionyl chloride (9.7 g, 74.6 mmol) are added dropwise to AlCl3 (22.3 g, 167.8 mmol) in nitromethane (75 mL) over 30 min. The reaction mixture is stirred at room temperature for 2 hours, after which 70 g of ice and 14 mL concentrated sulphuric acid are added. The aqueous phase is extracted with ether, and the combined organic phases extracted with 2N HCI and saturated aqueous NaCI. The organic phase is further treated with activated charcoal, magnesium sulphate, and filtered, and the solvent removed in vacuo.

reactant | 1,2-Diethylbenzene | 74.6 mmol, 10.9 g | C(C)C1=C(C=CC=C1)CC | C10H14
reactant | propionyl chloride | 74.6 mmol, 9.7 g | C(CC)(=O)Cl | C3H5ClO
reactant | AlCl3 | 167.8 mmol, 22.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | sulphuric acid | 14 mL | S(O)(O)(=O)=O | H2O4S
solvent | nitromethane | 75 mL | [N+](=O)([O-])C | CH3NO2
product | 3-chloro-1-(3,4-diethylphenyl)-1-propanone | ClCCC(=O)C1=CC(=C(C=C1)CC)CC | C13H17ClO
